US03931168
1-(4-Chloro-3-trifluoromethylcinnamamido)hydantoin
A stirred mixture of 4-chloro-3-trifluoromethylcinnamic acid (50 g, 0.2 mole) in 200 ml of SOCl2 was heated at reflux for 2 hours. The excess SOCl2 was removed in vacuo and the residue flushed with dry benzene. The residue was treated with a mixture of 1-aminohydantoin hydrochloride (30 g, 0.2 mole) in 400 ml of pyridine. The reaction mixture was heated at reflux for 3 hours; then poured into ice/HCl. The crude residue (74 g, 100%) was recrystallized from CH3NO2 (Darco) to give an analytical sample melting at 270°-273°.

reactant | 4-chloro-3-trifluoromethylcinnamic acid | 0.2 mole, 50 g | ClC1=C(C=C(C=CC(=O)O)C=C1)C(F)(F)F | C10H6ClF3O2
reactant | 1-aminohydantoin hydrochloride | 0.2 mole, 30 g | Cl.NN1C(=O)NC(=O)C1
solvent | SOCl2 | 200 ml | O=S(Cl)Cl | Cl2OS
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-Chloro-3-trifluoromethylcinnamamido)hydantoin | ClC1=C(C=C(C=CC(=O)NN2C(=O)NC(=O)C2)C=C1)C(F)(F)F | C13H9ClF3N3O3
